US04960787
A solution of 26.4 g of 4-amino-N,N-dimethylbenzamide in 500 ml toluene and 60 g acetonylacetone is refluxed for 16 hours under a Dean-Stark water separator. The solution is washed with water and brine, dried over MgSO4, filtered and the solvent evaporated at 60° and reduced pressure. The residue is crystallized from ether-hexane 1:1 to yield 1-(4-dimethylcarbamoylphenyl)-2,5-dimethyl-1H-pyrrole, m.p. 102°-104°.

reactant | 4-amino-N,N-dimethylbenzamide | 26.4 g | NC1=CC=C(C(=O)N(C)C)C=C1 | C9H12N2O
reactant | acetonylacetone | 60 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-dimethylcarbamoylphenyl)-2,5-dimethyl-1H-pyrrole | CN(C(=O)C1=CC=C(C=C1)N1C(=CC=C1C)C)C | C15H18N2O
